US05130119
(b) 2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]-acetic acid
Analogously to the instructions for Example 8, 2.2 g (6.98 mmol) of 2-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]-acetic acid methyl ester in dioxane is saponified with aqueous NaOH. After acidification, extraction and crystallization from ethyl acetate/hexane, 1.96 g=93.2% of the theoretical yield of crystals is obtained. Melting point 138°-140° C.

reactant | 2-[N-(4-fluoro-3-trifluoromethylphenyl)sulfamoyl]-acetic acid methyl ester | 6.98 mmol, 2.2 g | COC(CS(NC1=CC(=C(C=C1)F)C(F)(F)F)(=O)=O)=O | C10H9F4NO4S
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[N-(4-Fluoro-3-trifluoromethylphenyl)sulfamoyl]-acetic acid | FC1=C(C=C(C=C1)NS(=O)(=O)CC(=O)O)C(F)(F)F | C9H7F4NO4S
